US04321381
There were slowly added 6 ml of cyclopropanecarboxylic acid chloride to an iced solution of 15 g of 8β-methoxycarbonylergoline in 170 ml of pyridine. The reaction mixture was left at room temperature for 1 hr, then poured into cooled acid water. The precipitate was filtered and crystallized from methanol to give 16 g of 6-cyclopropanoyl-8β-methoxycarbonylergoline melting at 276°-278° C.

reactant | cyclopropanecarboxylic acid chloride | 6 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 8β-methoxycarbonylergoline | 15 g | COC(=O)[C@H]1CN[C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34 | C16H18N2O2
reactant | water | O | H2O
solvent | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
product | 6-cyclopropanoyl-8β-methoxycarbonylergoline | 16 g | C1(CC1)C(=O)N1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)C(=O)OC | C20H22N2O3
